US05753679
100 ml of HBr (48%) were heated to 90° and treated portionwise with 1.43 g (0.01 mol) of 2-chlorobenzyl alcohol. The mixture was stirred for 1/4 hr. and then cooled to room temperature. The mixture was extracted with ethyl acetate and the organic phase was washed with water and saturated sodium chloride solution and dried over sodium sulfate. 1.75g (85%) of 2-chlorobenzyl bromide were obtained as a slightly turbid, colorless oil; b.p. 130°/30 mmHg.

reactant | 2-chlorobenzyl alcohol | 0.01 mol, 1.43 g | ClC1=C(CO)C=CC=C1 | C7H7ClO
reactant | HBr | 100 ml | Br | BrH
product | 2-chlorobenzyl bromide | 1.75g, 85% | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
